US05244889
10-Mercaptomethyl-3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane (0.21 g, 0.69 mmol) is dissolved in methylene chloride (15 mL). Gaseous hydrogen chloride is bubbled through the solvent for 15 minutes, and then the reaction is sealed and stirred overnight. The solvent is evaporated the next day to give 10-mercaptomethyl-2-oxo-1-azacyclodecane-3-acetic acid, MS: M+1=260.

reactant | 10-Mercaptomethyl-3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane | 0.69 mmol, 0.21 g | SCC1CCCCCCC(C(N1)=O)CC(=O)OC(C)(C)C | C16H29NO3S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 10-mercaptomethyl-2-oxo-1-azacyclodecane-3-acetic acid | SCC1CCCCCCC(C(N1)=O)CC(=O)O | C12H21NO3S
